US08633183B2
A-30) 5-Ethynyl-6-trifluoromethyl-pyridin-2-ylamine
The title compound is synthesized according to general procedure GP3 starting from 2.82 g (11.0 mmol) 6-trifluoromethyl-5-trimethylsilanylethynyl-pyridin-2-ylamine and 757 mg (5.5 mmol) K2CO3 in 25 mL MeOH. The product is purified by chromatography on silica gel using a cyclohexane/ethyl acetate gradient. Yield: 0.9 g (44%).

reactant | 6-trifluoromethyl-5-trimethylsilanylethynyl-pyridin-2-ylamine | 11.0 mmol, 2.82 g | FC(C1=C(C=CC(=N1)N)C#C[Si](C)(C)C)(F)F | C11H13F3N2Si
reactant | K2CO3 | 5.5 mmol, 757 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 25 mL | CO | CH4O
product | 5-Ethynyl-6-trifluoromethyl-pyridin-2-ylamine | C(#C)C=1C=CC(=NC1C(F)(F)F)N | C8H5F3N2
